US05064959
Preparation of butyl 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoate (method f)
4-(4,6-Bis(trichloromethyl)-s-triazin-2-yl)-benzoyl chloride (9 pw) and n-butanol (1 pw) are added to dry toluene (100 pw). The mixture is stirred at 15° C., and 1.9 pw of pyridine is added dropwise. Stirring is continued for 3 hours. The resulting mixture is washed with 2% strength hydrochloric acid, 2% strength sodium hydroxide solution and then with water. After drying of the organic phase over magnesium sulfate, the solvent is removed by distillation, and the residue is recrystallized from ethanol. M.p. 109 to 110° C.

reactant | 4-(4,6-Bis(trichloromethyl)-s-triazin-2-yl)-benzoyl chloride | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C12H4Cl7N3O
reactant | n-butanol | C(CCC)O | C4H10O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | butyl 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoate | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)OCCCC)C=C1)(Cl)Cl | C16H13Cl6N3O2
